US07994185B2
Step B: Methyl 2,6-difluoro-3-nitrobenzoate
Fuming nitric acid (11 g, 174 mmol) was added to a solution of methyl 2,6-difluorobenzoate (25 g, 145 mmol) in concentrated sulfuric acid (50 mL) at 0° C., and the reaction was stirred for 30 min at 0° C. The reaction mixture was poured over ice-water. The precipitate was filtered off by suction to give the desired product of Step B (25.1 g, 80.6%). 1H NMR (400 MHz, CDCl3) δ ppm 8.13-8.20 (m, 1H), 7.02-7.10 (m, 1H), 3.93 (s, 3H).

reactant | nitric acid | 174 mmol, 11 g | [N+](=O)(O)[O-] | HNO3
reactant | methyl 2,6-difluorobenzoate | 145 mmol, 25 g | FC1=C(C(=O)OC)C(=CC=C1)F | C8H6F2O2
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 2,6-difluoro-3-nitrobenzoate | 25.1 g, 80.6% | FC1=C(C(=O)OC)C(=CC=C1[N+](=O)[O-])F | C8H5F2NO4
